US07767677B2
Synthesis of 1-(2-chloroethyl)-3-{6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazin-3-yl}urea
To a stirred solution of [4-(6-aminopyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone (0.070 g, 0.200 mmol) in a mixture of ethanol and dichloromethane (1:1, 15 mL) was added 2-chloroethylisocyanate (80.0 μL, 0.79 mmol) in one portion. The mixture was then stirred for 10 minutes at room temperature and then concentrated in vacuo. The residue was washed with 5% HCl solution, water and dried. The residue was purified by column chromatography to afford the title compound in 30% yield (0.028 g). 1H NMR (300 MHz, CDCl3) δ 7.98 (b., s, 1H), 7.75 (d, J=7.0 Hz, 1H), 7.64 (t, J=7.0 Hz, 1H), 7.56 (t, J=7.0 Hz, 1H), 7.37 (d, J=7.0 Hz, 1H), 7.12 (d, J=10.0 Hz, 1H), 4.99 (m, 1H), 4.06-3.89 (m, 2H), 3.69-3.59 (m, 6H), 3.56-3.53 (m, 2H), 3.47-3.44 (m, 2H), 3.35-3.33 (m, 2H).

reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 0.200 mmol, 0.070 g | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
reactant | 2-chloroethylisocyanate | 0.79 mmol, 80.0 μL | ClCCN=C=O | C3H4ClNO
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(2-chloroethyl)-3-{6-[4-(2-trifluoromethylbenzoyl)-piperazin-1-yl]pyridazin-3-yl}urea | 30% yield | ClCCNC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C19H20ClF3N6O2
